US06825331B2
A solution of dichloroacetic acid in CH2Cl2 (100 mL, 3:97, v/v) and methanol (20 mL) was added to N-[11-(4,4′-dimethoxytrityloxy)-3,6,9-trioxaundecanyloxy]phthalimide (2.3 g, 3.6 mmol), and the reaction mixture was stirred for 18 hours. All volatile material was evaporated in vacuo and the residue was dissolved in CH2Cl2 (10 mL). Silica gel column purification using an eluent system with a stepwise gradient of acetic acid in CH2Cl2 (0-4%) gave 0.88 g (72%) of 11-(phthalimidooxy)-3,6,9-trioxaundecan-1-ol after coevaporation of the pooled fractions with water and pyridine.

reactant | dichloroacetic acid | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | methanol | 20 mL | CO | CH4O
reactant | N-[11-(4,4′-dimethoxytrityloxy)-3,6,9-trioxaundecanyloxy]phthalimide | 3.6 mmol, 2.3 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OCCOCCOCCOCCON2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C37H39NO9
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 11-(phthalimidooxy)-3,6,9-trioxaundecan-1-ol | 0.88 g, 72% | C1(C=2C(C(N1OCCOCCOCCOCCO)=O)=CC=CC2)=O | C16H21NO7
